US07375115B2
4-[1-[2-[4-[N-(5-Methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]butyric acid
To a solution of methyl 4-[1-[2-[4-[N-(5-methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]butyrate (210 mg) in methanol (10 mL) was added a 3N aqueous sodium hydroxide solution (1.4 mL) at room temperature. After stirring the solution at room temperature for 3 hours, a 3N aqueous sodium hydroxide solution (0.7 mL) was added thereto at room temperature. The solution was stirred at room temperature for 2 hours. Water (5 mL) and acetic acid (0.36 mL) were then added to the solution and it was concentrated under reduced pressure to distill off the methanol. The solution was extracted with 20% ethanol/chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (180 mg).

reactant | methyl 4-[1-[2-[4-[N-(5-methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]butyrate | 210 mg | CC=1C=CC(=NC1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CCCC(=O)OC | C29H41N3O4
reactant | sodium hydroxide | 3N, 1.4 mL | [OH-].[Na+]
reactant | sodium hydroxide | 3N, 0.7 mL | [OH-].[Na+]
reactant | Water | 5 mL | O | H2O
reactant | acetic acid | 0.36 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
product | 4-[1-[2-[4-[N-(5-Methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]butyric acid | 180 mg | CC=1C=CC(=NC1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CCCC(=O)O | C28H39N3O4
